US06046195
a) 3-(Tributylstannyl)furan
3-Bromofuran (1.23 ml) was dissolved in diethyl ether (15 ml) and cooled to -76° C. Butyllithium (8.5 ml, 1.6M in hexane) was added dropwise ensuring the temperature remained below -60° C. After stirring for 15 minutes, tributyltin chloride (3.69 ml) was added. The reaction was stirred at -76° C. for 1 hour. The reaction was diluted with aqueous sodium hydrogencarbonate (20 ml) and the product extracted with diethyl ether (3×20 ml). The combined organic fractions were dried (brine, MgSO4) and concentrated in vacuo. The residue was purified by chromatography on silica eluting with hexane to yield the title compound as a colourless oil. 1H NMR (CDCl3, 360 MHz), δ 0.91 (9H, t, J 8.9 Hz), 1.03 (6H, t, J 10.4 Hz), 1.34 (6H, sx, J 7.3 Hz), 1.58 (6H, m), 6.35 (1H, d, J 1.5 Hz), 7.23 (1H, s), 7.56 (1H, t, J 1.4 Hz).

reactant | 3-Bromofuran | 1.23 ml | BrC1=COC=C1 | C4H3BrO
reactant | Butyllithium | 1.6M, 8.5 ml | C(CCC)[Li]
reactant | tributyltin chloride | 3.69 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | sodium hydrogencarbonate | 20 ml | C(O)([O-])=O.[Na+]
product | 3-(Tributylstannyl)furan | C(CCC)[Sn](C1=COC=C1)(CCCC)CCCC | InChI=1S/C4H3O.3C4H9.Sn/c1-2-4-5-3-1;3*1-3-4-2;/h1,3-4H;3*1,3-4H2,2H3;
